US09359345B2
A solution of {(R)-1-[4-cyano-5-(pyridin-2-ylamino)-thiazol-2-yl]-piperidin-3-yl}-carbamic acid tert-butyl ester (455 mg, 1.14 mmol) in 10:1 v/v tetrahydrofuran/water (16.5 mL total volume) was degassed by bubbling in argon for 10 minutes with stiffing. Hydrido-(dimethylphosphinous acid-kP)[hydrogen bis(dimethylphosphnito-kP]platinum (II) (CAS number 173416-05-2) (78 mg, 183 μmol) was added and the mixture was heated to 150° C. by microwave for 45 minutes. The reaction mixture was cooled to ambient temperature, poured into water (150 mL) and extracted with 1:1 v/v tetrahydrofuran/ethyl acetate (4×50 mL), the combined organic extracts were washed with brine (2×40 mL), dried over sodium sulfate, filtered and concentrated in vacuo to a yellow solid. The crude product was purified by chromatography using silica gel gradient eluted from 30% up to 70% v/v ethyl acetate in hexanes. The product containing fractions were combined and concentrated in vacuo to obtain {(R)-1-[4-carbamoyl-5-(pyridin-2-ylamino)-thiazol-2-yl]-piperidin-3-yl}-carbamic acid tert-butyl ester as an off white solid (362 mg, 76%). LC/MS: m/z calculated for C19H26N6O3S ([M−H]−): 417.5. Found: 417.4 (negative mode electrospray ionization).

reactant | {(R)-1-[4-cyano-5-(pyridin-2-ylamino)-thiazol-2-yl]-piperidin-3-yl}-carbamic acid tert-butyl ester | 1.14 mmol, 455 mg | C(C)(C)(C)OC(N[C@H]1CN(CCC1)C=1SC(=C(N1)C#N)NC1=NC=CC=C1)=O | C19H24N6O2S
reactant | tetrahydrofuran water | 16.5 mL | O1CCCC1.O
solvent | water | 150 mL | O | H2O
product | {(R)-1-[4-carbamoyl-5-(pyridin-2-ylamino)-thiazol-2-yl]-piperidin-3-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CN(CCC1)C=1SC(=C(N1)C(N)=O)NC1=NC=CC=C1)=O | C19H26N6O3S
